US04966891
A solution of piperonylic acid (0.42 g) in dry acetonitrile (5 ml) containing triethylamine (0.36 ml) was treated with diethyl chlorophosphate (0.37 ml) for 1 hour. To the reaction mixture were added 2',3'-bis-O-(tert-butyldimethylsilyl)-5'-deoxy-5-fluorocytidine (1.0 g) obtained in Reference example (a), triethylamine (0.36 ml) and 4-dimethylaminopyridine (0.05 g). After stirring of the mixture for 12 hours at room temperature, acetonitrile was evaporated under reduced pressure. The residue was partitioned between water and ether. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained powder was dissolved in tetrahydrofuran (6.3 ml) containing tetrabutylammonium fluoride (1.65 g) and the reaction mixture was stirred for 1 hour. After removal of the solvent under reduced pressure, the residue was purified by silica gel column chromatography (isopropanol-dichloromethane) followed by recrystallization from ethyl acetate to give 0.5 g of 5'-deoxy-5-fluoro-N4 -piperonyloylcytidine, mp 124°~125° C.: MS 394 (MH+).

reactant | piperonylic acid | 0.42 g | C(C1=CC=2OCOC2C=C1)(=O)O | C8H6O4
reactant | triethylamine | 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl chlorophosphate | 0.37 ml | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | 2',3'-bis-O-(tert-butyldimethylsilyl)-5'-deoxy-5-fluorocytidine | 1.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)C)N1C(=O)N=C(N)C(=C1)F | C21H40FN3O4Si2
reactant | triethylamine | 0.36 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5'-deoxy-5-fluoro-N4 -piperonyloylcytidine | 0.5 g | FC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)NC(C1=CC=2OCOC2C=C1)=O | C17H16FN3O7
